*
* ======================================================================== 
* THAT 2180A VCA SPICE Macromodel, Beta Version 1.B4 12/30/97*
* Copyright 1997 THAT Corporation, all rights reserved.
*
* Rev 01 RB 6-9-17
* Changed names for THAT2180A, THAT2180B, THAT2180C
* Changed pin names to match datasheet
*
*
* Note: Macromodel net numbers correspond to the IC package numbers.
* Pin 4 is not used on the 2180-series VCAs.
*
*                 Iin          
*                  |  Ec+ 
*                  |   |   Ec-
*                  |   |   |  Vee 
*                  |   |   |   |  GND
*                  |   |   |   |   |  Vcc 
*                  |   |   |   |   |   |  Iout
*                  |   |   |   |   |   |   |
.SUBCKT THAT2180A  1   2   3   5   6   7   8 
*
*
*
R1         10 13  2.5k  
R2         10 14  2.5k  
I1         10 29 DC 50uA  
R3         11 7  8k  
R4         12 7  8k  
G1         7 15 11 12 1.25e-4
R5         0 15  10MEG  
R6         0 16  10k  
C1         16 15  10p  
R7         19 7  2k  
G2         19 20 15 0 5e-4
C2         19 7  8p  
E1         20 28 30 6 2
R8         5 29  1.7k  
V1         0 29 DC 2.1V  
I2         0 30 DC 20uA  
R9         4 2  27  
C3         20 0  12p  
I3         20 28 DC 220uA  
V2         18 0 DC .7V  
V3         17 15 DC 1.4V  
Q1         11 1 13 QNHIB 
Q2         12 9 14 QNHIB 
Q3         20 21 23 QNPNNOM 
Q4         20 22 24 QNPNNOM 
Q5         8 4 27 QNPNNOM 
Q6         1 25 26 QNPNNOM 
Q7         1 2 23 QPNPNOM 
Q8         8 3 24 QPNPNOM 
Q9         28 28 27 QPNPNOM 
Q10        28 28 26 QPNPNOM 
Q11        28 29 5 QNPNNOM 
Q12        30 30 31 QNPNNOM 
Q13        0 0 31 QPNPNOM 
D1         18 15 DNOM 
D2         17 7 DNOM 
R10        3 25  20  
R11        22 20 20 
R12        21 20 27  
Vos        9 6 DC 3mV  
Isym       0 4 DC -420nA  
*    Isym = -420nA for typical THD.  Set to -1uA for worst case THD.
.model qnpnnom npn (is=1e-15 bf=200, vaf=110, cjc=3pF)
.model qpnpnom pnp (is=1e-15 bf=100, vaf=85, cjc=5pf)
.model qnhib npn (bf=16000)
.model dnom d (is=1e-15)
.ENDS
*
* ======================================================================== 
* THAT 2180B VCA SPICE Macromodel, Beta Version 1.B3 12/30/97*
* Copyright 1997 THAT Corporation, all rights reserved.
*
* Note: Macromodel net numbers correspond to the IC package numbers.
* Pin 4 is not used on the 2180-series VCAs.
*                 Iin          
*                  |  Ec+ 
*                  |   |   Ec-
*                  |   |   |  Vee 
*                  |   |   |   |  GND
*                  |   |   |   |   |  Vcc 
*                  |   |   |   |   |   |  Iout
*                  |   |   |   |   |   |   |
.SUBCKT THAT2180B  1   2   3   5   6   7   8 
*
*
*
R1         10 13  2.5k  
R2         10 14  2.5k  
I1         10 29 DC 50uA  
R3         11 7  8k  
R4         12 7  8k  
G1         7 15 11 12 1.25e-4
R5         0 15  10MEG  
R6         0 16  10k  
C1         16 15  10p  
R7         19 7  2k  
G2         19 20 15 0 5e-4
C2         19 7  8p  
E1         20 28 30 0 2
R8         5 29  1.7k  
V1         0 29 DC 2.1V  
I2         0 30 DC 20uA  
R9         4 2 27  
C3         20 0 12p  
I3         20 28 DC 220uA  
V2         18 0 DC .7V  
V3         17 15 DC 1.4V  
Q1         11 1 13 QNHIB 
Q2         12 9 14 QNHIB 
Q3         20 21 23 QNPNNOM 
Q4         20 22 24 QNPNNOM 
Q5         8 4 27 QNPNNOM 
Q6         1 25 26 QNPNNOM 
Q7         1 2 23 QPNPNOM 
Q8         8 3 24 QPNPNOM 
Q9         28 28 27 QPNPNOM 
Q10        28 28 26 QPNPNOM 
Q11        28 29 5 QNPNNOM 
Q12        30 30 31 QNPNNOM 
Q13        0 0 31 QPNPNOM 
D1         18 15 DNOM 
D2         17 7 DNOM 
R10        3 25  20 
R11        22 20 20
R12        21 20 27 
Vos        9 6 DC 3mV  
Isym       0 4 DC -850nA 
*    Isym = -850nA for typical THD.  Set to -2.15uA for worst case THD.
.model qnpnnom npn (is=1e-15 bf=150, vaf=110,cjc=3pF)
.model qpnpnom pnp (is=1e-15 bf=100, vaf=85, cjc=5pf)
.model qnhib npn (bf=14000)
.model dnom d (is=1e-15)
.ENDS
*
* ======================================================================== 
* THAT 2180C VCA SPICE Macromodel, Beta Version 1.B3 12/30/97*
* Copyright 1997 THAT Corporation, all rights reserved.
*
* Note: Macromodel net numbers correspond to the IC package numbers.
* Pin 4 is not used on the 2180-series VCAs.
*
*                 Iin          
*                  |  Ec+ 
*                  |   |   Ec-
*                  |   |   |  Vee 
*                  |   |   |   |  GND
*                  |   |   |   |   |  Vcc 
*                  |   |   |   |   |   |  Iout
*                  |   |   |   |   |   |   |
.SUBCKT THAT2180C  1   2   3   5   6   7   8 
*
*
*
R1         10 13  2.5k  
R2         10 14  2.5k  
I1         10 29 DC 50uA  
R3         11 7  8k  
R4         12 7  8k  
G1         7 15 11 12 1.25e-4
R5         0 15  10MEG  
R6         0 16  10k  
C1         16 15  10p  
R7         19 7  2k  
G2         19 20 15 0 5e-4
C2         19 7  8p  
E1         20 28 30 0 2
R8         5 29  1.7k  
V1         0 29 DC 2.1V  
I2         0 30 DC 20uA  
R9         4 2  27  
C3         20 0  12p  
I3         20 28 DC 220uA  
V2         18 0 DC .7V  
V3         17 15 DC 1.4V  
Q1         11 1 13 QNHIB 
Q2         12 9 14 QNHIB 
Q3         20 21 23 QNPNNOM 
Q4         20 22 24 QNPNNOM 
Q5         8 4 27 QNPNNOM 
Q6         1 25 26 QNPNNOM 
Q7         1 2 23 QPNPNOM 
Q8         8 3 24 QPNPNOM 
Q9         28 28 27 QPNPNOM 
Q10        28 28 26 QPNPNOM 
Q11        28 29 5 QNPNNOM 
Q12        30 30 31 QNPNNOM 
Q13        0 0 31 QPNPNOM 
D1         18 15 DNOM 
D2         17 7 DNOM 
R10        3 25  20  
R11        22 20 20  
R12        21 20 27  
Vos        9 6 DC 3mV  
Isym       0 4 DC -3.3uA  
*    Isym = -3.3uA for typical THD.  Set to -5.9uA for worst case THD.
.model qnpnnom npn (is=1e-15 bf=110, vaf=110, cjc=3pF)
.model qpnpnom pnp (is=1e-15 bf=100, vaf=85, cjc=5pf)
.model qnhib npn (bf=12000)
.model dnom d (is=1e-15)
.ENDS
*
